US08541421B2
2-Chloroquinazolin-4-amine
To a solution of 2,4-dichloroquinazoline (2.0 g, 10 mmol) in THF (10 mL), was added ammonia (28-30% in water, 18 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with EtOAc, washed with saturated NaHCO3, water and brine, dried over Na2SO4, filtered and evaporated. The resulting solid was washed with EtOAc to give the title compound (1.3 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ7.52-7.48 (m, 1H), 7.6-7.58 (m, 1H), 7.8-7.76 (m, 1H), 8.22-8.20 (m, 1H), 8.32 (bs, 2H).

reactant | 2,4-dichloroquinazoline | 10 mmol, 2.0 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | ammonia | 18 mL | N | H3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloroquinazolin-4-amine | 1.3 g, 72% | ClC1=NC2=CC=CC=C2C(=N1)N | C8H6ClN3
